US04447259
A mixture of N-[(±)-2-chloropropionyl]isoxazolidine (16.4 g) which was prepared as in Example 1, hydroquinone (13.2 g), anhydrous potassium carbonate (29.0 g) and dimethylformamide (100 ml) was stirred at 120° C. for 2 hours. After cooling, the reaction mixture was filtered through a suction filter to remove solid matters and the filtrate was concentrated in vacuo. The residue was washed with the addition of chloroform and 1 N hydrochloric acid and then with water and dried over anhydrous sodium sulfate. Removal of the solvent by a distillation in vacuo gave N-[(±)-2-(4-hydroxyphenoxy)propionyl]isoxazolidine (21.6 g) as a pale yellow oil which was purified by silica gel column chromatography to yield a colorless oil. nD20 =1.5412.

reactant | N-[(±)-2-chloropropionyl]isoxazolidine | 16.4 g | ClC(C(=O)N1OCCC1)C | C6H10ClNO2
reactant | hydroquinone | 13.2 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | potassium carbonate | 29.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-[(±)-2-(4-hydroxyphenoxy)propionyl]isoxazolidine | 21.6 g | OC1=CC=C(OC(C(=O)N2OCCC2)C)C=C1 | C12H15NO4
